US04902335
A mixture of 5-amino-6-fluoro-3-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-2(3H)-benzothiazolone (1.33 g), dichloromethane (10 ml) and ice (10 g) was prepared. To this mixture was added thiophosgene (0.7 g), and then portionwise added sodium bicarbonate at a temperature of 5° to 10° C. so as to make the mixture slightly alkaline. The mixture was stirred for 20 minutes, and tested to confirm whether the mixture was alkaline (if the mixture was acidic, then a further amount of sodium bicarbonate was added). The dichloromethane layer was separated, and the aqueous layer was extracted with fresh dichloromethane (10 ml×2). The dichloromethane layers were gathered together, washed with water, and distilled to remove the dichloromethane solvent therefrom. The resulting solid residue was recrystallized from a toluene-hexane solvent mixture, so that the aimed compound, i.e. 6-fluoro-5-isothiocyanato-3-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-2(3H)-benzothiazolone (1.49 g) was obtained. m.p. 168°-170° C.

reactant | 5-amino-6-fluoro-3-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-2(3H)-benzothiazolone | 1.33 g | NC=1C(=CC2=C(N(C(S2)=O)CC2=NOC(=N2)C)C1)F | C11H9FN4O2S
reactant | thiophosgene | 0.7 g | C(=S)(Cl)Cl | CCl2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 6-fluoro-5-isothiocyanato-3-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-2(3H)-benzothiazolone | 1.49 g | FC1=CC2=C(N(C(S2)=O)CC2=NOC(=N2)C)C=C1N=C=S | C12H7FN4O2S2
